US08008497B2
6-[2-Methoxy-4-(thiophen-2-ylcarbonyloxy)phenyl]-5-(4-methylbenzoyloxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Compound No. 1-1)
6-(4-Hydroxy-2-methoxyphenyl)-5-(4-methylbenzoyloxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 3-1, 25.6 mg, 0.0577 mmol) was dissolved in anhydrous methylene dichloride (1 mL), and then triethylamine (19 μL, 0.14 mmol) and 2-thenoyl chloride (11.2 mg, 0.0764 mmol) were added thereto. The reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled compound (28.8 mg) as a pale yellow amorphous product. (Yield 93%)

reactant | 6-(4-Hydroxy-2-methoxyphenyl)-5-(4-methylbenzoyloxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 0.0577 mmol, 25.6 mg | OC1=CC(=C(C=C1)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)COC(C1=CC=C(C=C1)C)=O)OC | C28H29NO4
reactant | triethylamine | 0.14 mmol, 19 μL | C(C)N(CC)CC | C6H15N
reactant | 2-thenoyl chloride | 0.0764 mmol, 11.2 mg | C1(=CC=CS1)C(=O)Cl | C5H3ClOS
solvent | methylene dichloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 6-[2-Methoxy-4-(thiophen-2-ylcarbonyloxy)phenyl]-5-(4-methylbenzoyloxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 28.8 mg, Yield 93% | COC1=C(C=CC(=C1)OC(=O)C=1SC=CC1)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)COC(C1=CC=C(C=C1)C)=O | C33H31NO5S
